US03998958
The hydrochloride salt of 2-imino-1-methylpiperidine (7.43 g.; 0.05 mole) is converted to the free base in benzene in the usual manner. After drying over K 2 CO 3 and filtering, a benzene solution of 0.05 mole of p-benzyloxyphenylisocyanate is added dropwise with stirring. After addition is complete, further stirring is continued for about 6 hours at room temperature. The benzene is evaporated in vacuo and the solid residue is recrystallized from methanol to give the product 1-(4-benzyloxyphenyl)-3 -(1-methyl-2-piperidylidene)urea.

reactant | 2-imino-1-methylpiperidine | 0.05 mole, 7.43 g | N=C1N(CCCC1)C | C6H12N2
reactant | p-benzyloxyphenylisocyanate | 0.05 mole | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N=C=O | C14H11NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(4-benzyloxyphenyl)-3 -(1-methyl-2-piperidylidene)urea | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)N=C1N(CCCC1)C | C20H23N3O2
